US05191071
Glucose (500 g, 2.78 mol) and a strong acid cation exchange resin (100 g Amberlyst™ 15, BDH Chemicals) was suspended in ethanol (2000 ml, 34.3 mol) The mixture was stirred at 80° C. for 16 hours. The progress of the reaction was followed by HPLC. The ion exchange resin was removed by filtration and the solution was treated with activated carbon (10 g). After filtration the ethanol was removed in vacuo giving ethyl D-glucopyranoside (a 1:1 mixture of α and β anomers) as a syrup (578 g, quantitative yield).

reactant | Glucose | 2.78 mol, 500 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethanol | 34.3 mol, 2000 ml | C(C)O | C2H6O
product | ethyl D-glucopyranoside | O(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC | C8H16O6
